US05149737
Preparation of the Intermediate, p-Vinylbenzyl 2-Hydroxyethyl Sulfide
To a solution of potassium hydroxide (86 g, 1.3 moles) and 2,6-di-tert-butyl-p-cresol (1 g) in ethanol (1 liter) at room temperature was added under nitrogen atmosphere 2-mercaptoethanol (100 g, 1.3 moles), over fifteen minutes. Following addition the solution was stirred an additional hour at room temperature and then p-vinylbenzyl chloride (198 g, 1.3 moles) was added at room temperature over one hour. After addition, the mixture was allowed to reach ambient temperature overnight. The mixture was filtered and the solvent removed on a rotary evaporator. To the residue was added dichloromethane (1.2 liter) and the solvent was washed with water (3×200 ml), then with saturated NaCl solution (200 ml), dried over anhydrous magnesium sulfate, filtered and the solvent removed on a rotary evaporator. To the residue was added diethyl ether (200 ml) and petroleum ether (800 ml). The product crystallized and was then filtered to give a white solid: m.p. of 44°-45.5° C. Yield of 85%. Analysis calculated for C11H14OS: C. 68.0, H, 7.26, S, 16.50. Found: C, 67.7, H, 6.98, S, 15.37.

reactant | potassium hydroxide | 1.3 moles, 86 g | [OH-].[K+]
reactant | 2,6-di-tert-butyl-p-cresol | 1 g | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
reactant | 2-mercaptoethanol | 1.3 moles, 100 g | SCCO | C2H6OS
reactant | p-vinylbenzyl chloride | 1.3 moles, 198 g | C(=C)C1=CC=C(CCl)C=C1 | C9H9Cl
solvent | ethanol | 1 liter | C(C)O | C2H6O
product | p-Vinylbenzyl 2-Hydroxyethyl Sulfide | Yield of 85% | OCCSCC1=CC=C(C=C1)C=C | C11H14OS
